US07553837B2
Production of 4-(±)-(5-amino-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)-1-(4-imidazol-1-ylphenyl)-1,2,3,6-tetrahydropyridine
To 1.2 g of 4-(±)-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)-1-(4-imidazol-1-ylphenyl)-1,2,3,6-tetrahydropyridine, 30 ml of ethanol was added and 3.6 g of stannous chloride-dihydrate and 15 ml of concentrated hydrochloric acid were added, followed by heating at reflux for 8 hours. The reaction solution was poured into water, neutralized with a 1N sodium hydroxide solution and then extracted with chloroform. The organic layer was washed with saturated saline and then dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration and concentrating under reduced pressure, the residue was subjected to silica gel column chromatography (chloroform:methanol=20:1) to obtain 0.93 g of the objective product (mp: 161-163° C.).

reactant | 4-(±)-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)-1-(4-imidazol-1-ylphenyl)-1,2,3,6-tetrahydropyridine | 1.2 g | [N+](=O)([O-])C1=C(C(=C2C(CC(O2)(C)CC=2CCN(CC2)C2=CC=C(C=C2)N2C=NC=C2)C1C)C)C | C27H32N4O3
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(±)-(5-amino-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)-1-(4-imidazol-1-ylphenyl)-1,2,3,6-tetrahydropyridine | 0.93 g | NC1=C(C(=C2C(CC(O2)(C)CC=2CCN(CC2)C2=CC=C(C=C2)N2C=NC=C2)C1C)C)C | C27H34N4O
